US03985888
Unpurified dimethyl γ-cyano-γ-(3,4-dimethoxyphenyl)pimelate, prepared from 334 grams of 3,4-dimethoxyphenylacetonitrile as described by Horning et al., J. Am. Chem. Soc., 74, 773 (1942), was added with stirring to 3.0 kg of polyphosphoric acid. This reaction mixture was stirred at 110° C. for 2 hours and poured into 6.0 liters of crushed ice with stirring. The resulting solid was filtered and recrystallized from isopropyl alcohol-water to give 65.8 grams (18%) of 2,3-dihydro-6,7-dimethoxyspiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione, melting point 269°-271° C.

reactant | dimethyl γ-cyano-γ-(3,4-dimethoxyphenyl)pimelate | C(#N)C(CCC(=O)OC)(CCC(=O)OC)C1=CC(=C(C=C1)OC)OC | C18H23NO6
reactant | 3,4-dimethoxyphenylacetonitrile | 334 grams | COC=1C=C(C=CC1OC)CC#N | C10H11NO2
product | 2,3-dihydro-6,7-dimethoxyspiro-[naphthalene-1(4H),3'-piperidine]-2',4,6'-trione | 65.8 grams, 18% | COC=1C=C2C(CCC3(C(NC(CC3)=O)=O)C2=CC1OC)=O | C16H17NO5
